US04894385
Methyl 4-[1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate
415 mg of methyl 4-mercaptobenzoate were dissolved in 3 ml of dry dimethylformamide, and 108 mg of a 55% w/w suspension of sodium hydride in mineral oil were then added to the resulting solution, whilst ice-cooling, after which the mixture was stirred at room temperature for 30 minutes. 567 mg of a solution of 1-[2-chloro-2-(2,4-dichlorophenyl)ethyl]imidazole dissolved in 3 ml of dry dimethylformamide were then added to the resulting solution, and the mixture was heated at 60° to 70° C. for 7 hours. At the end of this time, the resulting mixture was treated and purified similarly to the procedure described in Example 1, to give 317 mg of the title compound as colorless crystals, melting at 121°-124° C.

reactant | methyl 4-mercaptobenzoate | 415 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[2-chloro-2-(2,4-dichlorophenyl)ethyl]imidazole | ClC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C11H9Cl3N2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 317 mg | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C19H16Cl2N2O2S
